US06716985B2
4-(4-Fluorophenyl)-3-hydroxymethylpiperidine
Borane-tetrahydrofuran complex (1.0 molar solution in tetrahydrofuran (10.8 ml, 10.8 mmol) was added over 20 hours in 3 stages (in 3.6 mmol portions) at a rate of 7 ml/hour by means of a syringe pump to a solution of 4-(4-fluorophenyl)-3-carboxyethylpiperidin-6-one (0.53 g, 2 mmol, trans/cis˜1:1) in tetrahydrofuran (3 ml) at 26° C. The reaction mixture was stirred for 1 hour after addition of the last portion of the borane solution. then quenched with 3.5 ml 30% aqueous potassium carbonate solution. The phases were separated and the aqueous phase extracted with diethyl ether (25 ml). The organic phases were combined and evaporated to yield 0.43 g of the title compound. Yield 80%.

reactant | 4-(4-fluorophenyl)-3-carboxyethylpiperidin-6-one | 2 mmol, 0.53 g | FC1=CC=C(C=C1)C1C(CNC(C1)=O)CCC(=O)O | C14H16FNO3
reactant | borane | B | BH3
reactant | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 10.8 mmol, 10.8 ml | O1CCCC1 | C4H8O
product | 4-(4-Fluorophenyl)-3-hydroxymethylpiperidine | 0.43 g, Yield 80% | FC1=CC=C(C=C1)C1C(CNCC1)CO | C12H16FNO
